US04377580
A mixture of 4-amino-6-(3-cyclopentylpropionamido)quinazoline (4.4 g) and diethyl ethoxymethylenepropanedioate (5.5 g) in N,N-dimethylformamide (20 ml) was stirred at 100° C. for 3 hours. To the reaction mixture was added water. The resulting crystals were collected by filtration, washed with water, and suspended in dichloromethane under heating. After the suspension was cooled to ambient temperature, the resulting crystals were collected by filtration and washed with dichloromethane. There was obtained ethyl 4-oxo-10-(3-cyclopentylpropionamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate (2.4 g). The filtrate was concentrated to 1/4 of its original volume and cooled to 0° C. to yield an additional 0.37 g of the same product. The cryde substance (2.77 g) obtained above was chromatographed on silica gel with 2% methanoldichloromethane. The product was recrystallized from a mixture of methanol and dichloromethane to give crystalline pure product (2.45 g).

reactant | 4-amino-6-(3-cyclopentylpropionamido)quinazoline | 4.4 g | NC1=NC=NC2=CC=C(C=C12)NC(CCC1CCCC1)=O | C16H20N4O
reactant | diethyl ethoxymethylenepropanedioate | 5.5 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 4-oxo-10-(3-cyclopentylpropionamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate | 2.4 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(CCC2CCCC2)=O)C(=O)OCC | C22H24N4O4
